Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine Sulfate
 
Attending: ___.
 
Chief Complaint:
GI bleeding
.
Date/time of initial encounter:
___ ___
 
Major Surgical or Invasive Procedure:
CT abd/pelvis

 
History of Present Illness:
___ female h/o ischemic colitis, Charcot ___ disease, 
GERD who presents with rectal bleeding. This morning, she felt 
constipated initially, then soon developed diarrhea. Now for the 
last 24 hours she has had rectal bleeding - 12 episodes in 24 
hours, passing just blood, no stool. Variable amounts, thinks 
total maybe < ___ cup. Denies abd pain. Does have nausea without 
vomiting.  Denies fevers but reports intense sweats today which 
soaked her clothes. The patient notes that her symptoms are 
similar to what she experienced when she had ischemic colitis in 
___. She reports fatigue over the last weak and poor PO intake 
secondary to this fatigue. 
.
___ colonoscopy: Segmental continuous congestion and 
friability with contact bleeding were noted in the descending 
colon. These findings are compatible with ischemic colitis. 
.
ROS:
-Constitutional: []WNL []Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors [X]Nightweats []Anorexia
-Eyes: [X]WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia
-ENT: [X]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat
-Cardiac: [X]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE
-Respiratory: []WNL []SOB []Pleuritic pain []Hemoptysis []Cough
-Gastrointestinal: []WNL [X]Nausea []Vomiting []Abdominal pain 
[]Abdominal Swelling [X]Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena
-Heme/Lymph: [X]WNL []Bleeding []Bruising []Lymphadenopathy
-GU: [X]WNL []Incontinence/Retention []Dysuria []Hematuria 
[]DIscharge []Menorrhagia
-Skin: [X]WNL []Rash []Pruritus
-Endocrine: [X]WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance
-Musculoskeletal: [X]WNL []Myalgias []Arthralgias []Back pain
 
Past Medical History:
1. Charcot ___ disease  
2. Hypertension  
3. Depression  
4. Degenerative joint dis L knee, s/p knee replacement  
5. GERD  
6. Gallbladder sludge (dx ___  
7. Pancreas divisum  
8. Possible TIA, ___, on Aggrenox  
9. Osteoporosis  
10. Heart murmur, per patient takes abx for procedures.  

 
Social History:
___
Family History:
No known FHx of colon ca, IBD. Mother d. of "alcoholism" at ___, 
also had ___ did not know father. Sister alive 
and well at ___. Daughter, maternal aunt and cousin all have CMT. 

 
Physical Exam:
Physical Exam:
Appearance: NAD
Vitals: T: 98.1 BP: 130/61 HR: 64 RR: 20 O2: 94 % RA 
Eyes: EOMI, PERRL, conjunctiva clear, noninjected, anicteric, no 
exudate
ENT: Moist
Neck: No JVD, no LAD, no thyromegaly, no carotid bruits
Cardiovascular: RRR, nl S1/S2, ___ SEM
Respiratory: CTA bilaterally, comfortable, no wheezing, no 
ronchi, no rales
Gastrointestinal: soft, non-tender, non-distended, no 
hepatosplenomegaly, normal bowel sounds
Musculoskeletal/Extremities: no clubbing, no cyanosis, no joint 
swelling, no edema in the bilateral extremities, bilateral 
braces on legs, right wrist in hard cast.
Neurological: Alert and oriented x3, fluent speech, no pronator 
drift, no asterixis, sensation WNL, CNII-XII intact
Integument: warm, no rash, no ulcer
Psychiatric: appropriate, pleasant
Hematological/Lymphatic: No cervical, supraclavicular, axillary, 
or inguinal lymphadenopathy

 
Pertinent Results:
___ 06:15PM   WBC-15.8*# RBC-4.10* HGB-12.7 HCT-36.5 MCV-89 
MCH-31.0 MCHC-34.9 RDW-13.0
___ 06:15PM   NEUTS-82.6* LYMPHS-13.7* MONOS-2.5 EOS-0.8 
BASOS-0.4
___ 06:15PM   PLT COUNT-407
___ 06:15PM   ___ PTT-23.8 ___
___ 06:15PM   GLUCOSE-95 UREA N-14 CREAT-0.5 SODIUM-136 
POTASSIUM-3.6 CHLORIDE-97 TOTAL CO2-25 ANION GAP-18
___ 09:40PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:40PM URINE  BLOOD-SM NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-50 BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-TR
___ 09:40PM URINE  ___ BACTERIA-OCC YEAST-NONE 
___ 12:10AM   REPEAT HCT-31.8*
.
CT ABDOMEN/PELVIS W/CONTRAST:
wall thickening noted along splenic flexure with minimal if any 
surrounding stranding -- non- specific finding, with 
considerations including ischemic vs infectious. also, 
chronicity of findings indeterminate, as no prior imaging of 
bowel available for comparison. while study not targeted to 
vessels, contrast opacifies the SMA and SMV. no free air/fluid, 
nor pneumatosis.
 
Brief Hospital Course:
___ yo F w PMHx of HTN, GERD, Pancreas divisum, Charcot ___ 
tooth disease, Ischemic colitis in ___ presents with 1 day hx 
of Hematochezia

# Hematochezia:  ? Ischemic vs infectious colitis.  Pt has hx of 
ischemic colitis in ___ in setting of dehydration from 
diarrheal illness which was medically managed. Pt's hx of 
ischemic colitis and current CT findings showing thickening at 
splenic flexure make ischemic colitis more likely. However, 
since pt has had recent abx use and stool studies were sent and 
were neg for Cdiff X1 at time of DC. Pt not having diarrhea and 
unable to provide more samples before dc
- Surgery evaluated pt in ED and recommended conservative 
management. The day of discharge, surgery team was contacted and 
were okay with dc
- HCT remained stable throughout hospital stay without needing 
transfusion. 
- Pt was initially placed on bowel rest and diet slowly advanced 
to regular which she tolerated well without any abdominal pain. 
At ___ pt was having brown stool w minimal to no blood in stool
- Pt's aggrenox was held during hospital stay and pt was asked 
to not take it until clinic visit w PCP set up for ___
- Pt initially started on cipro/flagyl given recent abx use and 
concern over infectious colitis. However, given that pt has no 
abd pain, no fevers, or elevated white count and no diarrhea, 
suspicioun very low for infectious etiology and cipro/flagyl 
were stopped
.
# Hypertension:  pt was continued on HCTZ, lisinopril, and 
verapamil
,
# h/o possible TIAs: Aggrenox held during hospital stay, pt 
asked to hold it until seen by PCP.
.
# Hyperlipidemia:  Continued on statin
.
# Depression: On fluoxetine

 
Medications on Admission:
-DIPYRIDAMOLE-ASPIRIN [AGGRENOX] - 25 mg-200 mg Cap, Multiphasic 
Release 12 hr - 1 Cap(s) by mouth bid for platlet
-ENDOCET - ___ Tablet - ONE BY MOUTH TWICE A DAY AS NEEDED 
FOR PAIN
-FLUOXETINE - 40 mg Capsule - 1 Capsule(s) by mouth once a day
-HYDROCHLOROTHIAZIDE - 25 mg Tablet - 1 Tablet(s) by mouth once 
a day
-HYDROXYZINE HCL - 25 mg Tablet - one Tablet(s) by mouth twice 
___ prn
-LISINOPRIL - 10 mg Tablet - one Tablet(s) by mouth daily
-PANTOPRAZOLE [PROTONIX] - 40 mg Tablet, Delayed Release (E.C.) 
-one Tablet(s) by mouth twice a day
-ROSUVASTATIN [CRESTOR] - 5 mg Tablet - one Tablet(s) by mouth 
daily
-VERAPAMIL - 240 mg Cap,24 hr Sust Release Pellets - 1 Cap(s) by 
mouth once a day
 
Discharge Medications:
1. Fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
2. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
3. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Verapamil 240 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q24H (every 24 hours).  
5. Rosuvastatin 5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
7. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).
Disp:*1 bottle* Refills:*2*
8. Endocet ___ mg Tablet Sig: One (1) Tablet PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic colitis

 
Discharge Condition:
Good

 
Discharge Instructions:
You were admitted to the hospital for having blood in stool. You 
underwent a CT scan of your abdomen which showed colitis. This 
is likely ischemic colitis which you have had before and it is 
likely from poor blood supply to parts of your colon. You were 
hydrated and you improved. We do not think this colitis is from 
an infection. You need to not take aggrenox until your are seen 
by your PCP, ___ in clinic. Please drink plenty of 
fluids and keep yourself hydrated
Please return to ED for abdominal pain, sigificant amount of 
blood in stool or black stools, fevers, chills, diarrhea
 
Followup Instructions:
___